US08648081B2
Add a solution of CH3MgBr (3 M in THF, 1.7 ml, 4.99 mmol) to a suspension of 4-chloro-N-methoxy-N-methylbenzo[b]thiophene-2-carboxamide (0.85 g, 3.33 mmol) in dry THF (10 mL) at 0° C. Then stir the mixture for overnight at ambient temperature. Quench the reaction with saturated NH4Cl aqueous solution (15 mL) and extract the aqueous mixture with EtOAc (10 mL×3). The combined organic layers are washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by silica gel chromatograph (PE:EtOAc=6:1) to afford 1-(4-chlorobenzo[b]thiophen-2-yl)ethanone as white solid (0.6 g, 86.9%). 1H NMR (400 MHz, CDCl3) δ 8.10-8.07 (s, 1H), 7.75 (d, J=5.2, 1H), 7.47-7.36 (m, 2H), 2.72-2.68 (s, 3H).

reactant | CH3MgBr | 4.99 mmol, 3 M, 1.7 ml | C[Mg+].[Br-]
reactant | 4-chloro-N-methoxy-N-methylbenzo[b]thiophene-2-carboxamide | 3.33 mmol, 0.85 g | ClC1=CC=CC=2SC(=CC21)C(=O)N(C)OC | C11H10ClNO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-chlorobenzo[b]thiophen-2-yl)ethanone | 0.6 g, 86.9% | ClC1=CC=CC=2SC(=CC21)C(C)=O | C10H7ClOS
